US05234818
3-Amino-2,5-dimethyl-7-(dimethylamino)-pyrazolo[1,5-a]pyrimidine hydrochloride
2,5-Dimethyl-7-hydroxypyrazolo[1,5-a]pyrimidine are heated under reflux for 40 minutes with 16.6 ml. phosphorus oxychloride and 0.8 ml. N,N-dimethylaniline. Excess phosphorus oxychloride is distilled off and the residue is poured on to ice. Extraction is carried out with methylene chloride, the organic phase is washed with an aqueous solution of sodium carbonate, dried and evaporated. The residue obtained is dissolved in 28 ml. ethanol and mixed with 2 g. of a 40% solution of dimethylamine in water. The mixture is stirred for 2.5 hours at ambient temperature, evaporated and the residue chromatographed over silica gel with ethyl acetate. There is obtained 0.86 g. (46% of theory) 2,5-dimethyl-7-(N,N-dimethylamino)pyrazolo[1,5-a]pyrimidine which is nitrosated analogously to Example 3. The nitroso compound is reduced analogously to Example 8 with palladium-carbon/hydrazine hydrate. There is obtained 0.8 g. of the title compound. Rf (silica gel, chloroform/methanol/methyl ethyl ketone/glacial acetic acid/water 75:35:25:5:8 v/v/v/v/v)-0.54.

reactant | 2,5-Dimethyl-7-hydroxypyrazolo[1,5-a]pyrimidine | CC1=NN2C(N=C(C=C2O)C)=C1 | C8H9N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | dimethylamine | CNC | C2H7N
reactant | 2,5-dimethyl-7-(N,N-dimethylamino)pyrazolo[1,5-a]pyrimidine | CC1=NN2C(N=C(C=C2N(C)C)C)=C1 | C10H14N4
solvent | water | O | H2O
catalyst | palladium-carbon hydrazine hydrate | [C].[Pd].O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-2,5-dimethyl-7-(dimethylamino)-pyrazolo[1,5-a]pyrimidine hydrochloride | Cl.NC=1C(=NN2C1N=C(C=C2N(C)C)C)C | InChI=1S/C10H15N5.ClH/c1-6-5-8(14(3)4)15-10(12-6)9(11)7(2)13-15;/h5H,11H2,1-4H3;1H
